US07456218B2
ethyl 3-[4-({4′-[2-(ethylamino)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2-fluorophenyl]propanoate
To a solution of ethyl 3-{2-fluoro-4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate (0.50 g, 1.18 mmol), 2-ethylaminoethanol (0.10 mL, 1.30 mmol) and tributylphosphine (0.44 mL, 1.78 mmol) in tetrahydrofuran (10 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.45 g, 1.78 mmol) at room temperature with stirring. The reaction mixture was stirred at room temperature for 16 hrs. An equivalent amount of the aforementioned reagents (2-ethylaminoethanol, tributylphosphine and 1,1′-(azodicarbonyl)dipiperidine) were added and the mixture was further stirred at the same temperature for 16 hrs. Diethyl ether was added to the reaction mixture and insoluble material was filtered off. The filtrate was concentrated under reduced pressure and the residue was purified by preparative HPLC (gradient cycle A) to give a colorless oil. The obtained oil was dissolved in ethyl acetate, neutralized with saturated aqueous sodium hydrogen carbonate, washed with water and saturated brine, dried and concentrated under reduced pressure to give the title compound (0.52 g, yield 58%) as a colorless oil.

reactant | ethyl 3-{2-fluoro-4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate | 1.18 mmol, 0.50 g | FC1=C(C=CC(=C1)OCC=1C=C(C=CC1)C1=C(C=C(C=C1C)O)C)CCC(=O)OCC | C26H27FO4
reactant | 2-ethylaminoethanol | 1.30 mmol, 0.10 mL | C(C)NCCO | C4H11NO
reactant | tributylphosphine | 1.78 mmol, 0.44 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.78 mmol, 0.45 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Diethyl ether | C(C)OCC | C4H10O
product | ethyl 3-[4-({4′-[2-(ethylamino)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2-fluorophenyl]propanoate | 0.52 g, yield 58% | C(C)NCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CCC(=O)OCC)F)C | C30H36FNO4
